US05521167
To a solution of 2.0 g of 3β-(2-hydroxyethoxy)-androst-5-en-17-one (Julia S. et al., Bull. Soc. Chim. France, 1960, 297) in 20 ml of dimethylformamide, 3.5 g of imidazole and 4.0 g of t-butyldimethylsilyl chloride were added at 0° C. After 12 hrs the mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to give 2.5 g of crude 3β-(2-tert-butyldimethylsilyloxyethoxy)-androst-5-en-17-one.

reactant | 3β-(2-hydroxyethoxy)-androst-5-en-17-one | 2.0 g | OCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H32O3
reactant | imidazole | 3.5 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 4.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3β-(2-tert-butyldimethylsilyloxyethoxy)-androst-5-en-17-one | 2.5 g | [Si](C)(C)(C(C)(C)C)OCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C27H46O3Si
